### PR TITLE
A 'zify' tactic as a ML plugin

### LINKED ISSUE #7886: Lia confused by dependently typed hypotheses
In the following context:

```coq
Require Import Lia.

Axiom decompose_nat : nat -> nat -> nat.
Axiom inleft : forall {P}, {m : nat & P m} -> nat.
Axiom foo : nat.

Goal forall (x x0 : nat)
  (e : 0 = x0 + S x)
  (H : decompose_nat x 0 = inleft (existT (fun m : nat => 0 = m + S x) x0 e))
  (x1 : nat)
  (e0 : 0 = x1 + S (S x))
  (H1 : decompose_nat (S x) 0 = inleft (existT (fun m : nat => 0 = m + S (S x)) x1 e0)),
    False.
Proof.
intros.
```

`lia` fails while `clear H H1; lia` succeeds.

`omega` doesn't have this problem.

I found many occurrences of this while porting VST to `lia`.

### LINKED ISSUE #7887: Lia struggles with goals in `Type`
`lia` fails on the following goal:

```coq
Require Import Lia.

Axiom P : nat -> Set.

Goal forall n : nat, n < 0 -> P n.
intros. lia.
```

while `omega` succeeds. Coq complains about a type error, so I believe the fix should not be too hard, I'll have a look.

### LINKED ISSUE #10755: lia only works after a manual `PreOmega.zify; rewrite ?Z2Nat.id in *`
```
Require Import Coq.ZArith.ZArith.
Require Import Coq.micromega.Lia.

Lemma HbtbAddr: forall x,
    (3 <= x)%Z ->
    Z.to_nat x = (3 + (Z.to_nat x - 3))%nat.
Proof.
  intros.
  Fail lia.
  PreOmega.zify. Fail lia.
  rewrite ?Z2Nat.id in *; lia.
Qed.
```

I would like `lia` to solve the above goal automatically, without having to manually invoke `PreOmega.zify; rewrite ?Z2Nat.id in *` before.

Both Coq 8.9.0 and Coq [master](https://github.com/coq/coq/commit/110e87a2bee21c112f7fc4291e5a7b7e5180217b) are affected.

/cc @andres-erbsen @fajb

### PR DESCRIPTION
**Pull request by fajb**
This is an implementation of zify using a ML plugin.
The salient features:
- extensibility: declaring new types and functions can be done by registering a type class instance.
- efficiency: this remains to be assessed but
   * for each hypothesis, the transformation is linear (there is no match[context] )
- support for dependent hypotheses: the tactic generates new hypotheses and therefore does not break existing dependences.

NB: there is still some reliance on some Ltac inherited from PreOmega 

**Kind:** feature / performance 

Fixes #7886
Fixes #7887
Fixes #10755

### CODE REVIEW

File: plugins/micromega/Zify.v [hunk 1]
```diff
@@ -0,0 +1,665 @@
...
+      elt : typ
+    }.
+
+Open Scope list_scope.
+Definition all_injections := (mkrdp _ Inj_nat_Z )
+                               ::
+                               (mkrdp _ Inj_pos_Z) ::
+                               (mkrdp _ Inj_N_Z) :: nil.
+
+Ltac get_binop F :=
```
Comment (vbgl) [inline plugins/micromega/Zify.v]: Shouldn’t this function get the `InjTyp` instance as argument?

Comment (fajb) [reply plugins/micromega/Zify.v]: This would indeed be better. I said there were rough edges ;)

File: plugins/micromega/Zify.v [hunk 2]
```diff
@@ -0,0 +1,665 @@
+Require Import Arith Max Min BinInt BinNat Znat Nnat.
+(*Require Import ZArith.*)
+Declare ML Module "micromega_plugin".
+Open Scope Z_scope.
+Set Refine Instance Mode.
```
Comment (Zimmi48) [inline plugins/micromega/Zify.v]: Don't use this option, it is deprecated. This is what makes CI fail.

**Comment by Zimmi48** [comment]
This is looking more and more like https://github.com/Zimmi48/transfer...

**Comment by vbgl** [comment]
On the following goal, current `zify` would generate a hypothesis: `0 ≤ Z.of_nat n * Z.of_nat m`.

~~~
forall m n : nat, 0 <= m -> 0 <= n -> n <= n + n * m
~~~

Is it a regression or is the current `zify` too strong?

**Comment by fajb** [comment]
> Is it a regression or is the current `zify` too strong?

This is a regression but the existing `zify` is too strong.
The rationale for the existing behaviour is that if the goal is provable in linear arithmetics over nat, it is still provable in linear arithmetics over Z.
For this to hold, zify inserts possibly redundant positvity constraints for any Z.mul.

An alternative would be to normalise (using e.g. ring_simplify) and only do it for terms of the form
Z.of_nat x1 * ... * Z.of_nat xn

**Comment by fajb** [comment]
BTW, `lia` of PR https://github.com/coq/coq/pull/9725 is doing that at some stage.

**Comment by maximedenes** [comment]
> This is looking more and more like https://github.com/Zimmi48/transfer...

Which is itself a strict subset of CoqEAL's approach ;)

File: plugins/micromega/g_micromega.mlg [hunk 3]
```diff
@@ -32,6 +41,14 @@ END
 
 
 
+
+
+TACTIC EXTEND ITER
+| [ "iter" tactic(t) ] -> { iter_hyps t }
```
Comment (maximedenes) [inline plugins/micromega/g_micromega.mlg]: This seems much more general and useful. It should be moved to a better place.

**Review by maximedenes — COMMENTED** [review]
It would be nice to see what happens when we replace `omega` with `zify; lia` on top of this PR. Including a bench.

File: plugins/micromega/g_micromega.mlg (hunk 3 above)
Comment (ppedrot) [reply plugins/micromega/g_micromega.mlg]: I don't think this should be exported as a built-in tactic, this is going to add parsing rules for no good reasons. I know that Ltac2 didn't make it into 8.10 (for bad reasons), but that's not a justification good enough to introduce crappy half-baked combinators when what is missing is a first-class notion of lists in Ltac1.

**Comment by fajb** [comment]
Progress note. The remaining failures seem  benign.
- CompCert: it builds on my home machine
- Flocq: the failure are due zify being better at handling positivity constraints. 
As a result, auto with zarith succeeds more often. 
 - fiat-crypt-legacy: the failure is due to a Section variable being grabbed by lia. It should be cleared.
- validate:quick: the plugin does not load constr lazily.

**Comment by JasonGross** [comment]
> fiat-crypt-legacy: the failure is due to a Section variable being grabbed by lia. It should be cleared.

If you submit a PR to [the sp2019latest branch on fiat-crypto](https://github.com/mit-plv/fiat-crypto/tree/sp2019latest), I will merge it once it passes the CI.

**Comment by maximedenes** [comment]
@fajb in your last commit, please use a keyword that will make github automatically close #7886 when merged. Thanks!

**Comment by maximedenes** [comment]
Btw, this PR seems to contain a lot of unrelated commits. Not sure what happened.

**Comment by fajb** [comment]
@maximedenes I am trying the clean the mess.

**Comment by vbgl** [comment]
Here are some benchmark results (https://ci.inria.fr/coq/view/benchmarking/job/benchmark-part-of-the-branch/703/console).

~~~
┌────────────────────────┬─────────────────────────┬─────────────────────────────────────────────┬─────────────────────────────────────────────┐
│                        │      user time [s]      │                 CPU cycles                  │              CPU instructions               │
│                        │                         │                                             │                                             │
│           package_name │     NEW     OLD PDIFF   │               NEW               OLD PDIFF   │               NEW               OLD PDIFF   │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│        coq-fiat-crypto │ 4082.02 4162.10 -1.92 % │    11342301377814    11561959163883 -1.90 % │    18098429834756    18442792010460 -1.87 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│ coq-mathcomp-odd-order │ 1535.50 1548.32 -0.83 % │     4280201390737     4316554752564 -0.84 % │     7267590552964     7268120871822 -0.01 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│               coq-hott │  342.55  345.18 -0.76 % │      933809123873      939190412755 -0.57 % │     1428449311475     1427944680200 +0.04 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│           coq-compcert │ 1012.01 1018.64 -0.65 % │     2820732841226     2838912320186 -0.64 % │     4355771725322     4402167481920 -1.05 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│   coq-mathcomp-algebra │  174.97  175.68 -0.40 % │      488052477891      489817343359 -0.36 % │      609828657762      609665072939 +0.03 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│            coq-unimath │ 2703.32 2710.35 -0.26 % │     7528916769648     7550572949928 -0.29 % │    13607167632140    13605255215745 +0.01 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│        coq-lambda-rust │ 2054.58 2058.37 -0.18 % │     5723303173290     5736958322294 -0.24 % │     7887622097930     7896938705823 -0.12 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│ coq-mathcomp-ssreflect │   40.32   40.39 -0.17 % │      111580815767      111946079341 -0.33 % │      134446479048      134423849290 +0.02 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│ coq-mathcomp-character │  204.77  205.01 -0.12 % │      570079805832      571392163611 -0.23 % │      763954043568      764326865236 -0.05 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│  coq-mathcomp-solvable │  204.67  204.86 -0.09 % │      569913503172      570119365891 -0.04 % │      766280240921      765520131550 +0.10 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│  coq-mathcomp-fingroup │   55.64   55.68 -0.07 % │      154941662114      155058633121 -0.08 % │      203265568065      203255105395 +0.01 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│     coq-mathcomp-field │  240.35  240.32 +0.01 % │      668936881614      668689093685 +0.04 % │      961097060072      960945258788 +0.02 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│            coq-bignums │   72.18   72.07 +0.15 % │      201140859016      200670290546 +0.23 % │      267476293331      267203631276 +0.10 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│          coq-fourcolor │ 2549.00 2543.03 +0.23 % │     7108547532840     7087882183620 +0.29 % │    12952008416953    12952123547045 -0.00 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│             coq-geocoq │ 1995.68 1990.47 +0.26 % │     5570089219252     5555723164056 +0.26 % │     8084397742315     8072399090636 +0.15 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│             coq-sf-plf │   42.21   42.08 +0.31 % │      118576240000      117721969998 +0.73 % │      151867638410      151071850920 +0.53 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│       coq-math-classes │  217.70  216.88 +0.38 % │      608741368884      606974400219 +0.29 % │      772335273430      771598378867 +0.10 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│         coq-verdi-raft │ 1362.43 1357.19 +0.39 % │     3800694779096     3785909745720 +0.39 % │     5158136029414     5147203752623 +0.21 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│               coq-corn │ 1509.10 1502.00 +0.47 % │     4213502092186     4191374372253 +0.53 % │     6232512836661     6197935899601 +0.56 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│       coq-fiat-parsers │  702.52  697.65 +0.70 % │     1965058818465     1951255761868 +0.71 % │     2994547132614     2981592424910 +0.43 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│              coq-verdi │  124.64  123.72 +0.74 % │      346071708877      344080288133 +0.58 % │      445604298019      443335597536 +0.51 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│              coq-color │  709.35  703.84 +0.78 % │     1982268851782     1968354601538 +0.71 % │     2367635514492     2354168566598 +0.57 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│         coq-coquelicot │   75.88   75.28 +0.80 % │      208083192532      206644729102 +0.70 % │      250547414864      248615047664 +0.78 % │
├────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┤
│          coq-fiat-core │  111.84  109.81 +1.85 % │      316864543587      312270684849 +1.47 % │      396382288989      391297209325 +1.30 % │
└────────────────────────┴─────────────────────────┴─────────────────────────────────────────────┴─────────────────────────────────────────────┘

~~~

**Comment by vbgl** [comment]
Hint for updating the change-log: https://github.com/coq/coq/tree/master/doc/changelog#how-to-add-an-entry

**Comment by fajb** [comment]
Hi, 
I think I am done! 
The changelog and the documentation are updated.

File: doc/sphinx/addendum/micromega.rst [hunk 4]
```diff
@@ -249,21 +240,55 @@ cone expression :math:`2 \times (x-1) + (\mathbf{x-1}) \times (\mathbf{x−1}) +
...
+   This tactic is internally called by :tacn:`lia` to support additional types e.g., :g:`nat`, :g:`positive` and :g:`N`.
+   By requiring the module ``ZifyBool``, the boolean type :g:`bool` and some comparison operators are also supported.
+   :tacn:`zify` can also be extended by rebinding the tactic `Zify.zify_post_hook` that is run immediately after :tacn:`zify`.
+
+   + To support :g:`Z.div` and :g:`Z.modulo`: ``Ltac Zify.zify_post_hook ::= Z.div_mod_to_equations``.
+   + To support :g:`Z.quot` and :g:`Z.rem`: ``Ltac Zify.zify_post_hook ::= Z.quot_rem_to_equations``.
+   + To support :g:`Z.div`, :g:`Z.modulo`, :g:`Z.quot`, and :g:`Z.rem`: ``Ltac Zify.zify_post_hook ::= Z.to_euclidean_division_equations``.
+
+
+..  cmd:: Show InjTyp
```
Comment (Zimmi48) [inline doc/sphinx/addendum/micromega.rst]: These `cmd` directives have a spurious space that make them be interpreted as comments.

File: plugins/micromega/g_micromega.mlg [hunk 5]
```diff
@@ -30,10 +32,11 @@ TACTIC EXTEND RED
 | [ "myred"  ] -> { Tactics.red_in_concl }
 END
 
+(*
 TACTIC EXTEND ISGROUND
 | [ "is_ground" constr(t) ] -> { Coq_micromega.is_ground_tac t }
 END
-
+*)
```
Comment (Zimmi48) [inline plugins/micromega/g_micromega.mlg]: Commented out code. Should probably be removed or restored.

**Review by Zimmi48 — COMMENTED** [review]
IIUC the various new `Show` commands are just specialized commands to displayed some typeclass instances. If that's the case, the documentation should mention it.

**Comment by fajb** [comment]
To me the html looked find... Anyway, I removed the extra spaces and the commented code.

Regarding the Show command, it does what is documented and it is on purpose that the implementation is not explained. 
Actually, it does not show instances but specific parameters of instances registered using an ad'hoc mechanism.

**Comment by Zimmi48** [comment]
>To me the html looked fine

I hadn't looked at the rendered HTML but at least GitHub rst rendered showed this as comments.

>it is on purpose that the implementation is not explained

This kind of thinking is always almost wrong: abstraction by non-documentation does not work. So either it is truly internal information that is properly abstracted away, in which case the user should not be able to break this abstraction barrier, or the user can actually break the abstraction barrier and it should be documented, even if it is to say that this should not be done.

BTW, headers of new files should be included to the current year.

**Comment by fajb** [comment]
headers are now fixed.

File: plugins/zify/g_zify.mlg [hunk 6]
```diff
@@ -0,0 +1,77 @@
...
+
+}
+
+
+
+DECLARE PLUGIN "zify_plugin"
+
+
+VERNAC COMMAND EXTEND DECLAREINJECTION CLASSIFIED AS SIDEFF
+| ["Add" "InjTyp"    constr(t) ] -> { Zify.InjTable.register t }
```
Comment (maximedenes) [inline plugins/zify/g_zify.mlg]: These commands take a `constr` arguments, but they seem used solely on names. Couldn't you simply reuse the `Coqlib` machinery here, instead of defining a new registration mechanism?

**Review by maximedenes — COMMENTED** [review]
This is impressive work! I did a first pass of review mainly on the new ml part.

File: plugins/micromega/micromega.ml [hunk 7]
```diff
@@ -67,17 +67,25 @@ let rec nth n0 l default =
             | [] -> default
             | _::t0 -> nth m t0 default)
 
+(** val rev_append : 'a1 list -> 'a1 list -> 'a1 list **)
+
+let rec rev_append l l' =
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/micromega/micromega.ml]: micromega.ml is Coq extracted code -- this is the rev_append of the Coq library.

File: plugins/micromega/micromega.ml [hunk 8]
```diff
@@ -67,17 +67,25 @@ let rec nth n0 l default =
...
+  match l with
+  | [] -> l'
+  | a::l0 -> rev_append l0 (a::l')
+
 (** val map : ('a1 -> 'a2) -> 'a1 list -> 'a2 list **)
 
 let rec map f = function
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/micromega/micromega.ml]: micromega.ml == extracted code.

File: plugins/micromega/micromega.ml [hunk 9]
```diff
@@ -67,17 +67,25 @@ let rec nth n0 l default =
...
 | [] -> []
 | a::t0 -> (f a)::(map f t0)
 
-(** val fold_right : ('a2 -> 'a1 -> 'a1) -> 'a1 -> 'a2 list -> 'a1 **)
+(** val fold_left : ('a1 -> 'a2 -> 'a1) -> 'a2 list -> 'a1 -> 'a1 **)
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/micromega/micromega.ml]: idem

File: plugins/omega/PreOmega.v [hunk 10]
```diff
@@ -558,8 +555,19 @@ Ltac zify_N_op :=
 
 Ltac zify_N := repeat zify_N_rel; repeat zify_N_op; unfold Z_of_N' in *.
 
+(** The complete Z-ification tactic *)
+
+Ltac zify_old := repeat (zify_nat; zify_positive; zify_N); zify_op.
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/omega/PreOmega.v]: Ok, I propose to remove it but keep the Ltac zify definition at the end of the file.
It does a bit more than the core version in Zify.v

File: plugins/zify/ZifyBool.v [hunk 11]
```diff
@@ -0,0 +1,275 @@
...
+
+(** [bool_of_Z] is a compatible reverse operation *)
+Definition bool_of_Z (z : Z) : bool := negb (Z.eqb z 0).
+
+Lemma Z_of_bool_bound : forall x,   0 <= Z_of_bool x <= 1.
+Proof.
+  destruct x ; simpl; compute; intuition congruence.
+Qed.
+
+Program Instance Inj_bool_Z : InjTyp bool Z :=
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/ZifyBool.v]: I just removed Program -- terms are explicitly given or constructed by tactics.

File: plugins/zify/zify.ml [hunk 12]
```diff
@@ -0,0 +1,1158 @@
...
+(* From Coqlib *)
+let make_dir l = DirPath.make (List.rev_map Id.of_string l)
+
+(** [get_type_of] performs beta reduction ;
+    Is it ok for Retyping.get_type_of (Zpower_nat n q) to return (fun _ : nat => Z) q ? *)
+let get_type_of env evd e =
+  Tacred.cbv_beta env evd (Retyping.get_type_of env evd e)
+
+(** [unsafe_to_constr c] returns a [Constr.t] without considering an evar_map.
+    This is useful for calling Constr.hash *)
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: In the hash table, all the terms are ground, so the error would not be triggered.
Yet, you may run zify with open terms and perform a lookup in a hash-table -- which will fail.

Would you suggest explicitly checking whether the term is ground or catch the exception?

File: plugins/zify/zify.ml [hunk 13]
```diff
@@ -0,0 +1,1158 @@
...
+(*         *     (see LICENSE file for the text of the license)         *)
+(************************************************************************)
+
+open Constr
+open Names
+open Pp
+open Lazy
+
+(* From Coqlib *)
+let make_dir l = DirPath.make (List.rev_map Id.of_string l)
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: It is not exported.

File: plugins/zify/zify.ml [hunk 14]
```diff
@@ -0,0 +1,1158 @@
...
+
+(** [get_type_of] performs beta reduction ;
+    Is it ok for Retyping.get_type_of (Zpower_nat n q) to return (fun _ : nat => Z) q ? *)
+let get_type_of env evd e =
+  Tacred.cbv_beta env evd (Retyping.get_type_of env evd e)
+
+(** [unsafe_to_constr c] returns a [Constr.t] without considering an evar_map.
+    This is useful for calling Constr.hash *)
+let unsafe_to_constr c = EConstr.to_constr ~abort_on_undefined_evars:false Evd.empty c
```
Comment (SkySkimmer) [inline plugins/zify/zify.ml]: Why not use
```suggestion
let unsafe_to_constr c = EConstr.Unsafe.to_constr
```
?
The way you have it seems just pointlessly slower (it will go through the whole term, but not substitute anything since it's Evd.empty and not raise errors since it's abort:false)

File: plugins/zify/zify.ml [hunk 15]
```diff
@@ -0,0 +1,1158 @@
...
+
+let pr_constr env evd e =
+  Printer.pr_constr_env env evd (unsafe_to_constr e)
+
+
+let debug = false (** Debug flag to get some intermediate terms *)
+
+
+
+(** [is_constructor evd c] holds if the term is solely made of constructors *)
```
[the remark this answers is not in the document]
Comment (SkySkimmer) [reply plugins/zify/zify.ml]: The function is unused AFAICT

File: plugins/zify/zify.ml [hunk 16]
```diff
@@ -0,0 +1,1158 @@
...
+open Constr
+open Names
+open Pp
+open Lazy
+
+(* From Coqlib *)
+let make_dir l = DirPath.make (List.rev_map Id.of_string l)
+
+(** [get_type_of] performs beta reduction ;
+    Is it ok for Retyping.get_type_of (Zpower_nat n q) to return (fun _ : nat => Z) q ? *)
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: Retyping.get_type_of may return types which are not (beta) reduced.
This is probably a feature but I was puzzled because the term was simply typed.
This  was responsible for a bug because Z was expected...

**Review by SkySkimmer — DISMISSED** [review]
There should be a zify.mli exporting only those definitions which are used outside zify.ml

File: plugins/zify/zify.ml [hunk 17]
```diff
@@ -0,0 +1,1158 @@
...
+let get_type_of env evd e =
+  Tacred.cbv_beta env evd (Retyping.get_type_of env evd e)
+
+(** [unsafe_to_constr c] returns a [Constr.t] without considering an evar_map.
+    This is useful for calling Constr.hash *)
+let unsafe_to_constr c = EConstr.to_constr ~abort_on_undefined_evars:false Evd.empty c
+
+
+let pr_constr env evd e =
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: If it does, I will be glad to use it ;)

File: plugins/zify/zify.ml [hunk 18]
```diff
@@ -0,0 +1,1158 @@
...
+    (only syntactic matching)
+ *)
+let rec get_arrow_typ evd t  =
+  match EConstr.kind evd t with
+  | Prod (a,p1,p2) (*when a.Context.binder_name = Names.Anonymous*) ->
+       p1::(get_arrow_typ evd p2)
+  |  _ -> [t]
+
+        (*
+let get_arrow_typ evd t  =
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: thanks. I'll remove it.

File: plugins/zify/zify.ml [hunk 19]
```diff
@@ -0,0 +1,1158 @@
...
+(** [is_binary_arrow t] return t' such that t = t' -> t' -> t' *)
+let is_binary_arrow evd t =
+  let l = get_arrow_typ evd t in
+  match l with
+  | []  -> assert false
+  | [t1;t2;t3] ->  Some (t1,t2,t3)
+  |  _   -> None
+
+(** [is_unary_arrow t] return t' such that t = t' -> t' *)
+let is_unary_arrow evd t =
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: done.

File: plugins/zify/g_zify.mlg [hunk 20]
```diff
@@ -0,0 +1,77 @@
...
+    Proofview.Goal.enter  begin fun gl ->
+      let concl = Tacmach.New.pf_concl gl in
+      Feedback.msg_debug (Pp.str "Term :" ++ (Termops.Internal.debug_print_constr concl)) ;
+      Tacticals.New.tclIDTAC
+      end
+  }
+END
+
+VERNAC COMMAND EXTEND ZifyPrint CLASSIFIED AS SIDEFF
+|[ "Show" "InjTyp" ] -> { Zify.print_zify_types () }
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/g_zify.mlg]: done.

File: plugins/zify/zify.ml [hunk 21]
```diff
@@ -0,0 +1,1158 @@
...
+    It should only be used using closed terms.
+ *)
+module HConstr =
+  struct
+    module M =
+      Map.Make(
+          struct
+            type t = EConstr.t
+
+            let compare c c' = Constr.compare (unsafe_to_constr c) (unsafe_to_constr c')
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: Maybe it is not.
What is the right way of getting a comparison function?

File: plugins/zify/zify.ml [hunk 22]
```diff
@@ -0,0 +1,1158 @@
...
+
+    let iter f m = M.iter f m
+
+  end
+
+
+(** [get_projections_from_constant (evd,c) ]
+    returns an array of constr [| a1,... an|] such that [c] is defined as
+    Definition c := mk a1 ... an with mk a constructor.
+    ai is therefore either a type parameter or a projection.
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: It is only meant to be used on records in ZifyClasses.
That could be explicitly checked.

File: plugins/zify/zify.ml [hunk 23]
```diff
@@ -0,0 +1,1158 @@
...
+      Names.Id.of_string (E.name^"_"^(string_of_int !id))
+
+    let register_obj : Constr.constr ->  Libobject.obj  =
+      let cache_constr (_,c) =
+        let env = Global.env () in
+        let evd = Evd.from_env env in
+        register_constr env evd c in
+      let subst_constr (subst,c) = Mod_subst.subst_mps subst c in
+
+      (Libobject.declare_object @@ (Libobject.superglobal_object_nodischarge ("register-zify-"^E.name)
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: To get the declarations in ZifyInst loaded by default, it is my understanding that this is the only way.
You do not want the user to explicitly Import those definitions.

File: plugins/zify/zify.ml [hunk 24]
```diff
@@ -0,0 +1,1158 @@
...
+
+
+
+module CstrTable =
+  struct
+    module HConstr = Hashtbl.Make(
+                         struct
+                           type t = EConstr.t
+
+                           (*                           let compare c c' = Constr.compare (unsafe_to_constr c) (unsafe_to_constr c')*)
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: done

File: plugins/zify/zify.ml [hunk 25]
```diff
@@ -0,0 +1,1158 @@
...
+
+                           let  hash c = Constr.hash (unsafe_to_constr c)
+
+                           let  equal c c' = Constr.equal (unsafe_to_constr c) (unsafe_to_constr c')
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: I just want a hash table where keys are ground terms.
But may lookup with open terms.
I am happy with any solution.

File: plugins/zify/zify.ml [hunk 26]
```diff
@@ -0,0 +1,1158 @@
...
+  | Var of InjElt.elt * EConstr.t
+  (** Var is a term that cannot be injected further *)
+
+  | Constant of InjElt.elt * EConstr.t
+  (** Constant is a term that is solely built from constructors *)
+
+  | Injterm of EConstr.t
+(** Injected is an injected term represented by a  term of type [injterm] *)
+
+let is_construct = function
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: done.

File: plugins/zify/zify.ml [hunk 27]
```diff
@@ -0,0 +1,1158 @@
...
+  with Not_found -> raise (CErrors.user_err  (Pp.str "Missing injection for type "++ Printer.pr_leconstr_env env evd e.typ))
+
+
+
+
+
+let get_rel env evd e =
+  let is_prop env evd p =
+    let ty = get_type_of env evd p in
+    Constr.is_Prop (unsafe_to_constr ty) in
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: This looks safer to me. 
Any other reliable or better way to know that this is Prop?

File: plugins/zify/zify.ml [hunk 28]
```diff
@@ -0,0 +1,1158 @@
...
+  let c = match n with
+    | None -> c
+    | Some n -> Tacred.unfoldn  [(Locus.AllOccurrences,Names.EvalVarRef n) ] env evd c in
+  (* Reduce the term *)
+  let c = cbv (force to_unfold @ unfold_decl) env evd c in
+  c
+
+
+let trans_check_prop env evd t =
+  if Constr.is_Prop (unsafe_to_constr (get_type_of env evd t))
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: I always fear some unexpected term.

File: plugins/zify/zify.ml [hunk 29]
```diff
@@ -0,0 +1,1158 @@
...
+    end
+  ))
+
+
+
+let is_progress_rewrite evd t rew =
+  match EConstr.kind evd rew with
+  | App(c,[|lhs;rhs|]) ->
+     if EConstr.eq_constr evd (force iff) c
+                          (* too strong: some reduction may occur && (EConstr.eq_constr evd t lhs) *)
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: done.

File: plugins/zify/zify.ml [hunk 30]
```diff
@@ -0,0 +1,1158 @@
...
+  Proofview.Goal.enter begin fun gl ->
+    let table = CstrTable.HConstr.create 20 in
+
+    let concl = Tacmach.New.pf_concl gl in
+    let hyps  = Tacmach.New.pf_hyps_types gl in
+    let evd   = Tacmach.New.project gl in
+
+    let rec sat t  =
+      match EConstr.kind evd t with
+      | App(c,args) ->
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: We need to recurse over arbitrary sub-terms.
Yet, we only do some real work if this is a binary operator we know about.

File: plugins/zify/zify.ml [hunk 31]
```diff
@@ -0,0 +1,1158 @@
...
+                                     ~subst:(Some subst_constr) )
+
+
+
+    let register c =
+      let env = Global.env () in
+      let evd = Evd.from_env env in
+      let (_,c)  = Constrintern.interp_open_constr env evd c in
+      let name = new_id () in
+      let _ = Lib.add_leaf name (register_obj (EConstr.to_constr evd c)) in
```
[the remark this answers is not in the document]
Comment (fajb) [reply plugins/zify/zify.ml]: done.

File: plugins/zify/g_zify.mlg (hunk 6 above)
Comment (fajb) [reply plugins/zify/g_zify.mlg]: Would that fit the bill? The registration is performing some work e.g. initialise properly indexed tables.

File: plugins/zify/zify.ml (hunk 14 above)
Comment (fajb) [reply plugins/zify/zify.ml]: Thanks for the advice.

File: test-suite/micromega/zomicron.v [hunk 32]
```diff
@@ -156,3 +164,42 @@ Proof.
...
+  (H19 : 16383 + 1 <> 0 -> q2 = (16383 + 1) * q3 + r3)
+  (H20 : 0 < 16383 + 1 -> 0 <= r3 < 16383 + 1)
+  (H21 : 16383 + 1 < 0 -> 16383 + 1 < r3 <= 0)
+  (H22 : 16383 + 1 = 0 -> q3 = 0)
+  (H23 : 16383 + 1 = 0 -> r3 = 0),
+  r0 = r1.
+Proof.
+  intros.
+  Timeout 1 lia.
+Timeout 1 Qed.
```
Comment (vbgl) [inline test-suite/micromega/zomicron.v]: This kind of test is rather unreliable : CI jobs may happen to be scheduled on slow/busy machines.

Comment (fajb) [reply test-suite/micromega/zomicron.v]: I removed the Timeout.
Ideally, it would be nice to verify properties of the proof terms. 
Here, a relevant information would be that the number of reification nodes is below or equal some number.

**Comment by fajb** [comment]
I hope this is now ready for merging.
(The remaining failures seem unrelated to this PR.)

File: plugins/zify/zify.ml [hunk 33]
```diff
@@ -0,0 +1,1095 @@
...
+    Is it ok for Retyping.get_type_of (Zpower_nat n q) to return (fun _ : nat => Z) q ? *)
+let get_type_of env evd e =
+  Tacred.cbv_beta env evd (Retyping.get_type_of env evd e)
+
+(** [unsafe_to_constr c] returns a [Constr.t] without considering an evar_map.
+    This is useful for calling Constr.hash *)
+let unsafe_to_constr = EConstr.Unsafe.to_constr
+
+let pr_constr env evd e =
+  Printer.pr_constr_env env evd (unsafe_to_constr e)
```
Comment (SkySkimmer) [inline plugins/zify/zify.ml]: Why not use pr_econstr?

File: plugins/zify/zify.mli [hunk 34]
```diff
@@ -0,0 +1,29 @@
...
+(*         *   The Coq Proof Assistant / The Coq Development Team       *)
+(*  v      *   INRIA, CNRS and contributors - Copyright 1999-2019       *)
+(* <O___,, *       (see CREDITS file for the list of authors)           *)
+(*   \VV/  **************************************************************)
+(*    //   *    This file is distributed under the terms of the         *)
+(*         *     GNU Lesser General Public License Version 2.1          *)
+(*         *     (see LICENSE file for the text of the license)         *)
+(************************************************************************)
+open Constrexpr
+module InjTable : sig val register : constr_expr -> unit end
```
Comment (SkySkimmer) [inline plugins/zify/zify.mli]: I think it may be nicer if you had
~~~ocaml
module type Table = sig 
  val register : constr_expr -> unit 
  val print : unit -> unit 
end
module InjTable : Table
module UnOp : Table 
(* ... *)
~~~
(with the print functions kept inside the module instead of listed at the end of the mli)

File: plugins/zify/g_zify.mlg [hunk 35]
```diff
@@ -0,0 +1,76 @@
...
+(************************************************************************)
+
+{
+
+open Ltac_plugin
+open Stdarg
+open Tacarg
+open Pp
+
+let iter_hyps (tac:Tacinterp.Value.t) =
```
Comment (SkySkimmer) [inline plugins/zify/g_zify.mlg]: Seems unused

File: plugins/zify/g_zify.mlg [hunk 36]
```diff
@@ -0,0 +1,76 @@
...
+  Proofview.Goal.enter  begin fun gl ->
+    let hyps = List.rev (Tacmach.New.pf_hyps_types gl) in
+
+    Tacticals.New.tclTHENLIST
+          (List.map (fun (h,t) -> Tacticals.New.tclTRY (Tacinterp.Value.apply tac [Tacinterp.Value.of_constr (EConstr.mkVar h) ; Tacinterp.Value.of_constr t])) hyps)
+    end
+
+let iter_specs (tac: Tacinterp.Value.t) =
+    Zify.iter_specs (fun c -> Tacinterp.Value.apply tac [Tacinterp.Value.of_constr c])
```
Comment (SkySkimmer) [inline plugins/zify/g_zify.mlg]: Why have this in the mlg instead of implementing iter_specs fully in zify.ml?

File: plugins/zify/zify.ml [hunk 37]
```diff
@@ -0,0 +1,1095 @@
...
+(** [reduce_term evd t] carefully unfolds aliases in [t] i.e.
+    if t = ctx[c] where c is a constant which
+    body is another constant c' then
+    [reduce_term env evd t] returns ctx[c']
+
+    This could be made more agressive..
+ *)
+
+let rec unfold_const evd c ctx =
+  match Global.body_of_constant Library.indirect_accessor c with
```
Comment (SkySkimmer) [inline plugins/zify/zify.ml]: Why are you opening opaques here?

File: plugins/zify/zify.ml [hunk 38]
```diff
@@ -0,0 +1,1095 @@
...
+let get_projections_from_constant (evd,i) =
+  match EConstr.kind evd i with
+  | Constr.Const(c,_ ) ->
+     begin
+       match Global.body_of_constant Library.indirect_accessor c with
+       | None -> failwith "Add Injection requires a constant (with a body)"
+       | Some(c,_,_) ->
+          match EConstr.kind evd  (EConstr.of_constr c) with
+          | App(c,a) -> Some a
+          |    _            -> None
```
Comment (SkySkimmer) [inline plugins/zify/zify.ml]: Really weird spacing here and other places, maybe run an automatic formatter?

File: plugins/zify/zify.ml [hunk 39]
```diff
@@ -0,0 +1,1095 @@
...
+
+(** [unsafe_to_constr c] returns a [Constr.t] without considering an evar_map.
+    This is useful for calling Constr.hash *)
+let unsafe_to_constr = EConstr.Unsafe.to_constr
+
+let pr_constr env evd e =
+  Printer.pr_constr_env env evd (unsafe_to_constr e)
+
+
+let debug = false (** Debug flag to get some intermediate terms *)
```
Comment (SkySkimmer) [inline plugins/zify/zify.ml]: Having to recompile to enable debug is a pain, either use Flags.debug or Goptions.declare_bool_option_and_ref.

File: plugins/zify/zify.ml (hunk 31 above)
[the remark this answers is not in the document]
Comment (SkySkimmer) [reply plugins/zify/zify.ml]: >>why not add_anonymous_leaf?
>
>done.

Still using add_leaf according to github, did the change get dropped in a rebase?

File: plugins/zify/zify.ml (hunk 33 above)
Comment (fajb) [reply plugins/zify/zify.ml]: done.

File: plugins/zify/zify.mli (hunk 34 above)
Comment (fajb) [reply plugins/zify/zify.mli]: done.

File: plugins/zify/g_zify.mlg (hunk 35 above)
Comment (fajb) [reply plugins/zify/g_zify.mlg]: removed.

File: plugins/zify/g_zify.mlg (hunk 36 above)
Comment (fajb) [reply plugins/zify/g_zify.mlg]: If I do so, I get an error (some unbound module) when loading the plugin from a .v file.

Comment (SkySkimmer) [reply plugins/zify/g_zify.mlg]: >If I do so, I get an error (some unbound module) when loading the plugin from a .v file.

Would you make a branch where that problem occurs so I can have a look?

File: plugins/zify/zify.ml (hunk 37 above)
Comment (fajb) [reply plugins/zify/zify.ml]: Search for an object of type  'Opaqueproof.indirect_accessor ', this is the only element I could get.
I am good with any suggestion.

File: plugins/zify/zify.ml (hunk 38 above)
Comment (fajb) [reply plugins/zify/zify.ml]: Did some best effort at improving formatting.

File: plugins/zify/zify.ml (hunk 39 above)
Comment (fajb) [reply plugins/zify/zify.ml]: I know - I will suffer. 
I would rather remove the flag than expose it...
The printed information is currently only meaningful for chasing the last bug...

Comment (maximedenes) [reply plugins/zify/zify.ml]: > The printed information is currently only meaningful for chasing the last bug...

How do you know it is the last bug?

A debug infrastructure is often nice for future maintenance and debugging.

File: plugins/zify/g_zify.mlg (hunk 36 above)
Comment (fajb) [reply plugins/zify/g_zify.mlg]: It is there:
https://github.com/fajb/coq/tree/zify_loading_failure

I did not recompile from scratch but get the error:
File "./plugins/zify/ZifyInst.v", line 17, characters 0-32:
Error: while loading
/home/fbesson/sources/coq-fajb/plugins/zify/zify_plugin.cmxs:
no implementation available for Tacinterp

File: plugins/zify/zify.ml (hunk 39 above)
Comment (fajb) [reply plugins/zify/zify.ml]: I am just saying there is no debug infrastructure.

Comment (maximedenes) [reply plugins/zify/zify.ml]: > I am just saying there is no debug infrastructure.

Ah ok :)

Comment (SkySkimmer) [reply plugins/zify/zify.ml]: > I would rather remove the flag than expose it...

then remove it

File: plugins/zify/zify.ml (hunk 37 above)
Comment (SkySkimmer) [reply plugins/zify/zify.ml]: Don't use body_of_constant, use Environ.constant_opt_value_in instead.
Or better don't write some adhoc reduce_term and use `Reductionops.clos_norm_flags CClosure.delta` or some such thing

File: plugins/zify/g_zify.mlg (hunk 36 above)
Comment (SkySkimmer) [reply plugins/zify/g_zify.mlg]: It's `Ltac_plugin.Tacinterp` not just `Tacinterp` (note that Ltac_plugin is opened in the mlg)

File: plugins/zify/zify.ml (hunk 38 above)
Comment (ejgallego) [reply plugins/zify/zify.ml]: ocamlformat does indeed give great results [once you tweak the flags a bit]

File: plugins/zify/zify.ml (hunk 39 above)
Comment (fajb) [reply plugins/zify/zify.ml]: done.

File: plugins/zify/zify.ml (hunk 38 above)
Comment (fajb) [reply plugins/zify/zify.ml]: done using default flags.

File: plugins/zify/zify.ml (hunk 37 above)
Comment (fajb) [reply plugins/zify/zify.ml]: Removed unfold_cst. Instead, for terms of the form @eq ty, ty is unified with candidates Z, positive etc.

File: plugins/zify/g_zify.mlg (hunk 36 above)
Comment (fajb) [reply plugins/zify/g_zify.mlg]: done.

File: plugins/zify/zify.ml (hunk 38 above)
Comment (ejgallego) [reply plugins/zify/zify.ml]: Thanks @fajb ! We need to document this better [c.f. #9572] , a set of flags closer to Coq's style is:
```
ocamlformat --module-item-spacing=compact --inplace --break-sequences --sequence-style=terminator --cases-exp-indent=2 --field-space=loose
```

**Comment by maximedenes** [comment]
@SkySkimmer do you approve the PR?

**Comment by SkySkimmer** [comment]
>@SkySkimmer do you approve the PR?

I haven't looked in depth enough to say so, I'd rather say that I do not oppose.

File: plugins/micromega/coq_micromega.ml [hunk 40]
```diff
@@ -50,10 +50,10 @@ let get_lia_option () =
 let get_lra_option () =
  !lra_proof_depth
 
+(*let reify_tc = ref false*)
```
Comment (vbgl) [inline plugins/micromega/coq_micromega.ml]: What’s the purpose of this commented code? I should probably be removed.

File: plugins/micromega/coq_micromega.ml [hunk 41]
```diff
@@ -90,14 +90,25 @@ let () =
...
+(* let reify_tc_opt =
+   {
+     optdepr = false;
+     optname = "Aggressive reification using type-classes resolution";
+     optkey  = ["Lia"; "Reify" ; "More"];
+     optread = (fun () -> !reify_tc);
+     optwrite = (fun x -> reify_tc := x)
+   } in
+ *)
+
```
Comment (vbgl) [inline plugins/micromega/coq_micromega.ml]: Same question about this comment.

File: plugins/micromega/coq_micromega.ml [hunk 42]
```diff
@@ -90,14 +90,25 @@ let () =
...
  let () = declare_bool_option solver_opt in
  let () = declare_stringopt_option dump_file_opt in
  let () = declare_int_option (int_opt ["Lra"; "Depth"] lra_proof_depth) in
  let () = declare_int_option (int_opt ["Lia"; "Depth"] lia_proof_depth) in
  let () = declare_bool_option lia_enum_opt in
+ (* let () = declare_bool_option reify_tc_opt in*)
```
Comment (vbgl) [inline plugins/micromega/coq_micromega.ml]: Same here.

File: plugins/micromega/coq_micromega.ml [hunk 43]
```diff
@@ -1222,17 +1233,31 @@ let prodn n env b =
...
   let props     =  prop_env_of_formula gl form in
 
-  let vars_n  = List.map (fun (_,i) -> (Names.Id.of_string (Printf.sprintf "__x%i" i)) , dexpr.interp_typ) vars_idx in 
-  let props_n = List.mapi (fun i _ -> (Names.Id.of_string (Printf.sprintf "__p%i" (i+1))) , EConstr.mkProp)  (Env.elements props) in
+  (* Not quite fresh... but fast and fresh enough *)
+  let fresh_var str i = Names.Id.of_string (str^(string_of_int i)) in
+
+  let fresh_prop str i =
+    (* TODO: Should also ensure freshness! *)
+    Names.Id.of_string (str^(string_of_int i)) in
```
Comment (vbgl) [inline plugins/micromega/coq_micromega.ml]: What can go wrong if the generated names are not fresh?

File: test-suite/micromega/zomicron.v [hunk 44]
```diff
@@ -1,5 +1,37 @@
 Require Import ZArith.
 Require Import Lia.
+
+Lemma bug_9848 : True.
+Proof.
+  do 1000 pose proof I.
+  Timeout 1 Lia.lia. (* fast *)
+Timeout 1 Qed. (* Qed is wall-clock slow but Time Qed says otherwise *)
```
Comment (vbgl) [inline test-suite/micromega/zomicron.v]: These timeouts are bound to fail in CI. Could we check the size of the proof term instead?

Comment (vbgl) [reply test-suite/micromega/zomicron.v]: In fact the proof term remembers all the intermediate proofs of True. So checking the term size won’t help.

Comment (fajb) [reply test-suite/micromega/zomicron.v]: For the test, lia should not use any of the posed hypothesis.

As discussed privately,  it is now rewritten using a Section and Proof using.

File: plugins/micromega/coq_micromega.ml (hunk 40 above)
Comment (fajb) [reply plugins/micromega/coq_micromega.ml]: removed.

File: plugins/micromega/coq_micromega.ml (hunk 42 above)
Comment (fajb) [reply plugins/micromega/coq_micromega.ml]: removed.

File: plugins/micromega/coq_micromega.ml (hunk 43 above)
Comment (fajb) [reply plugins/micromega/coq_micromega.ml]: The tactic fails with "Error: Variable __pxxx is already declared.".
That is not too bad.

A solution would be to clear all the hypotheses from the context.
This would better be constant time i.e. unsafe update of the evar_map.

File: plugins/micromega/coq_micromega.ml (hunk 40 above)
Comment (fajb) [reply plugins/micromega/coq_micromega.ml]: removed

File: plugins/micromega/coq_micromega.ml (hunk 42 above)
Comment (fajb) [reply plugins/micromega/coq_micromega.ml]: removed.

File: test-suite/micromega/zomicron.v (hunk 44 above)
Comment (fajb) [reply test-suite/micromega/zomicron.v]: The purpose of the test is to make sure that lia does not use the useless posed hypotheses.

As discussed privately, the updated test is using a Section and Proof using.

File: plugins/micromega/coq_micromega.ml (hunk 43 above)
Comment (fajb) [reply plugins/micromega/coq_micromega.ml]: This is actually fixed by 106087e

**Comment by fajb** [comment]
I just pushed a rebased version. Let's hope the bench are not too bad!

File: plugins/zify/zify.ml (hunk 22 above)
[the remark this answers is not in the document]
Comment (maximedenes) [reply plugins/zify/zify.ml]: No need to check it, but it would be better to mention it in the comment.

File: plugins/zify/zify.ml [hunk 45]
```diff
@@ -0,0 +1,1121 @@
...
+
+(** [HConstr] is a map indexed by EConstr.t.
+    It should only be used using closed terms.
+ *)
+module HConstr = struct
+  module M = Map.Make (struct
+    type t = EConstr.t
+
+    let compare c c' =
+      Constr.compare (unsafe_to_constr c) (unsafe_to_constr c')
```
Comment (maximedenes) [inline plugins/zify/zify.ml]: @ppedrot is it the right way of doing this? Or should the type be `Constr.t` since all the terms are expected to be closed?

File: plugins/zify/zify.ml [hunk 46]
```diff
@@ -0,0 +1,1121 @@
...
+  try trans_expr env evd e with Not_found ->
+    raise
+      (CErrors.user_err
+         ( Pp.str "Missing injection for type "
+         ++ Printer.pr_leconstr_env env evd e.typ ))
+
+let get_rel env evd e =
+  let is_prop env evd p =
+    let ty = get_type_of env evd p in
+    Constr.is_Prop (unsafe_to_constr ty)
```
Comment (maximedenes) [inline plugins/zify/zify.ml]: @SkySkimmer I keep forgetting: is there a recommended way to test this? Or is this way ok?

**Comment by vbgl** [comment]
Here are the bench results before the last squashing.

We can observe a very nice improvement for Pff (a module from flocq) and a small penalty for every one not using zify (but somehow depending on it through ZArith or the like).

Recent commit 51862cff74234f0e0c44dd0edf4dd3e57d5ed33c does not seem to improve the situation (benchmark currently running).

~~~
┌────────────────────────┬──────────────────────────┬──────────────────────────────────────────────┬──────────────────────────────────────────────┐
│                        │      user time [s]       │                  CPU cycles                  │               CPU instructions               │
│                        │                          │                                              │                                              │
│           package_name │     NEW     OLD  PDIFF   │               NEW               OLD  PDIFF   │               NEW               OLD  PDIFF   │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│              coq-flocq │  247.24  461.68 -46.45 % │      687395920293     1285107209887 -46.51 % │      865405388810     1783491825038 -51.48 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│        coq-fiat-crypto │ 3736.68 3793.64  -1.50 % │    10376985482214    10536491530598  -1.51 % │    16261582123136    16564569593684  -1.83 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│           coq-compcert │  775.38  783.18  -1.00 % │     2160108793897     2181464702234  -0.98 % │     2892307963632     2931820974082  -1.35 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│ coq-fiat-crypto-legacy │ 6233.09 6287.43  -0.86 % │    17353036024211    17504093892942  -0.86 % │    28184829096938    28514548636112  -1.16 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│  coq-mathcomp-fingroup │   51.39   51.58  -0.37 % │      143461343214      143704817443  -0.17 % │      186923806158      186922252390  +0.00 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│ coq-mathcomp-ssreflect │   40.18   40.32  -0.35 % │      111396634116      111392992073  +0.00 % │      135147221651      135119736983  +0.02 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│            coq-bignums │   67.92   67.94  -0.03 % │      188558536605      189312382869  -0.40 % │      250098438115      252055052494  -0.78 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│          coq-fourcolor │ 2167.50 2165.05  +0.11 % │     6045416820093     6031053218170  +0.24 % │    11363480578986    11363443697447  +0.00 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│              coq-color │  711.36  710.10  +0.18 % │     1991371563535     1984427558409  +0.35 % │     2375330504109     2364634446316  +0.45 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│     coq-mathcomp-field │  230.92  230.46  +0.20 % │      643126055250      642480026720  +0.10 % │      920607922038      920675729318  -0.01 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│  coq-mathcomp-solvable │  189.11  188.73  +0.20 % │      526730919308      526113740734  +0.12 % │      703141011229      703146090765  -0.00 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│             coq-geocoq │ 1577.91 1574.27  +0.23 % │     4406823775009     4396087622481  +0.24 % │     6452403966059     6444663573068  +0.12 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│        coq-lambda-rust │ 1535.10 1531.41  +0.24 % │     4278102550777     4267689899568  +0.24 % │     5662301478958     5657616368799  +0.08 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│         coq-verdi-raft │ 1326.78 1323.30  +0.26 % │     3698361326859     3689837209829  +0.23 % │     5009839703311     4998727159519  +0.22 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│ coq-mathcomp-character │  182.68  182.20  +0.26 % │      508787575538      507974872625  +0.16 % │      672112972342      672102075216  +0.00 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│              coq-verdi │  120.61  120.27  +0.28 % │      335261358445      334443683800  +0.24 % │      421176464461      420261981430  +0.22 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│       coq-math-classes │  218.06  217.14  +0.42 % │      607807700187      606921989367  +0.15 % │      770253737555      769538294707  +0.09 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│   coq-mathcomp-algebra │  165.57  164.85  +0.44 % │      461027393848      460176312695  +0.18 % │      571212961489      571214188764  -0.00 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│         coq-coquelicot │   77.24   76.86  +0.49 % │      212552543245      211002608263  +0.73 % │      257634927134      255593757804  +0.80 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│            coq-unimath │ 4057.34 4030.95  +0.65 % │    11296845379010    11225803971188  +0.63 % │    20809745741630    20810859241649  -0.01 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│               coq-hott │  362.61  360.24  +0.66 % │      989849653022      982458866610  +0.75 % │     1487526403872     1487492035416  +0.00 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│       coq-fiat-parsers │  651.17  646.83  +0.67 % │     1821799453992     1808805618575  +0.72 % │     2735845845655     2725188933261  +0.39 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│             coq-sf-plf │   44.53   44.12  +0.93 % │      124670199656      123713798426  +0.77 % │      161331741010      160151879705  +0.74 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│          coq-fiat-core │  113.65  112.34  +1.17 % │      322897455700      319874795671  +0.94 % │      402312304403      398432536256  +0.97 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│               coq-corn │ 1471.81 1452.66  +1.32 % │     4108694845658     4055478750869  +1.31 % │     6054075877927     6022604648738  +0.52 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│ coq-mathcomp-odd-order │ 1454.87 1429.57  +1.77 % │     4052869567654     3979394720381  +1.85 % │     6864391153999     6863674392519  +0.01 % │
└────────────────────────┴──────────────────────────┴──────────────────────────────────────────────┴──────────────────────────────────────────────┘
~~~

File: plugins/zify/zify.ml (hunk 45 above)
Comment (maximedenes) [reply plugins/zify/zify.ml]: Note that the difficulty is we want lookup to work on arbitrary terms (not necessarily closed ones).

**Comment by ejgallego** [comment]
The increase on `odd_order` is strange, where is `zify` getting involved there?

File: plugins/zify/zify.ml (hunk 46 above)
Comment (SkySkimmer) [reply plugins/zify/zify.ml]: This will return `false` if you have `Definition prop := Prop.` and `p : prop`, it probably shouldn't.
Maybe use `get_sort_of` instead, if there is a risk of calling on arguments which aren't types catch the exception.

File: plugins/zify/zify.ml [hunk 47]
```diff
@@ -0,0 +1,1121 @@
...
+  in
+  let is_arrow a p1 p2 =
+    (* cheap *)
+    match a.Context.binder_name with
+    | Names.Anonymous -> is_prop env evd p1 && is_prop env evd p2
+    | _ ->
+        is_prop env evd p1 && is_prop env evd p2
```
Comment (SkySkimmer) [inline plugins/zify/zify.ml]: Isn't the env wrong for p2?
I guess this should be more like
~~~ocaml
let is_arrow a p1 p2 = 
  is_prop env evd p1 && is_prop (push_rel a env) evd p2 && (a.binder_name = Anonymous || noccurn evd 1 p2)
~~~

**Comment by ppedrot** [comment]
The odd-order time increase is not uniform though. A few dozen of lines are responsible for most of the increase. All of them seem to be using rewrite, FWIW.

**Comment by vbgl** [comment]
Pierre-Marie, how do you easily get this information? The benchmark infrastructure gives nice charts but I don’t know how to quickly spot the interesting piece of data.

About the increase in “odd-order”, can it be related to the fact that there is a new plug-in in the standard library (loading it takes time, even if not used)? or a new directory in the file system (scanning it on “Require” takes time)?

**Comment by ejgallego** [comment]
Odd order should be the least affected by require time issues imho

**Comment by ppedrot** [comment]
@vbgl I wrote a custom OCaml parser for `coqc -time` HTML output that allows to order lines by different metrics. I can publish it somewhere, maybe in the bench code itself.

The offending lines (in the range of +15% for significant time of several seconds or tens of seconds) all contain a call to ssr rewrite.

**Comment by vbgl** [comment]
New benchmark results (new: 51862cff74234f0e0c44dd0edf4dd3e57d5ed33c; old: 396f814900fb6b93439477d482e40b69ef339426).

~~~
┌────────────────────────┬──────────────────────────┬──────────────────────────────────────────────┬─────────────────────────────────────────────┐
│                        │      user time [s]       │                  CPU cycles                  │               CPU instructions              │
│                        │                          │                                              │                                             │
│           package_name │     NEW     OLD  PDIFF   │               NEW               OLD  PDIFF   │               NEW               OLD  PDIFF  │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│              coq-flocq │  246.47  463.26 -46.80 % │      685076753332     1288469290120 -46.83 % │      865619193719     1783591002980 -51.47 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│        coq-fiat-crypto │ 3734.37 3796.47  -1.64 % │    10370615584993    10540413052441  -1.61 % │    16261064298789    16566225904755  -1.84 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│ coq-fiat-crypto-legacy │ 6231.60 6281.69  -0.80 % │    17344959833696    17485955272192  -0.81 % │    28191189734852    28486846357052  -1.04 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│           coq-compcert │  775.84  781.87  -0.77 % │     2163141840047     2179834542954  -0.77 % │     2892272023946     2931743436367  -1.35 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│             coq-geocoq │ 1577.22 1575.09  +0.14 % │     4400631493530     4396544258895  +0.09 % │     6451917734760     6444654241312  +0.11 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│              coq-verdi │  120.52  120.29  +0.19 % │      334739882900      334243034380  +0.15 % │      421291906128      420262719399  +0.24 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│            coq-bignums │   67.99   67.84  +0.22 % │      189346485307      189239501414  +0.06 % │      250084618706      252070879606  -0.79 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│ coq-mathcomp-character │  182.51  182.03  +0.26 % │      508821562384      506852801541  +0.39 % │      672040806872      672081335541  -0.01 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│        coq-lambda-rust │ 1533.72 1529.51  +0.28 % │     4274130927556     4264726249871  +0.22 % │     5663407829228     5657048505259  +0.11 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│          coq-fourcolor │ 2169.26 2162.84  +0.30 % │     6045658648211     6031371591633  +0.24 % │    11363603535198    11363419884084  +0.00 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│       coq-math-classes │  217.98  217.28  +0.32 % │      607952489537      605920192445  +0.34 % │      770293527285      769510490310  +0.10 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│         coq-verdi-raft │ 1326.82 1322.05  +0.36 % │     3698366825172     3686854520066  +0.31 % │     5010066289496     4998744864718  +0.23 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│  coq-mathcomp-fingroup │   51.53   51.28  +0.49 % │      143618119875      142805519486  +0.57 % │      186966673571      186893450852  +0.04 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│  coq-mathcomp-solvable │  189.27  188.34  +0.49 % │      526809558596      525056326827  +0.33 % │      703117976377      703135130726  -0.00 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│     coq-mathcomp-field │  231.53  230.34  +0.52 % │      644724015464      641677418810  +0.47 % │      920600218105      920617165775  -0.00 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│   coq-mathcomp-algebra │  165.62  164.75  +0.53 % │      461113071745      459603601519  +0.33 % │      571223541322      571257912291  -0.01 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│               coq-hott │  362.93  360.45  +0.69 % │      988263807429      981501684870  +0.69 % │     1487572948770     1487434457492  +0.01 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│              coq-color │  714.02  708.58  +0.77 % │     1992890715114     1981465588877  +0.58 % │     2375119225239     2364572990186  +0.45 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│            coq-unimath │ 4057.06 4026.14  +0.77 % │    11297906098189    11214543688530  +0.74 % │    20813572131926    20812049723119  +0.01 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│         coq-coquelicot │   77.25   76.66  +0.77 % │      212265707502      210784649109  +0.70 % │      257645650534      255585468701  +0.81 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│       coq-fiat-parsers │  652.14  646.18  +0.92 % │     1824183963059     1808874831536  +0.85 % │     2734336937973     2725057705980  +0.34 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│          coq-fiat-core │  113.51  112.44  +0.95 % │      322776340058      319675399482  +0.97 % │      402267896646      398371311437  +0.98 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│ coq-mathcomp-ssreflect │   40.20   39.80  +1.01 % │      111393090884      111095185529  +0.27 % │      135154629876      135124843919  +0.02 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│               coq-corn │ 1472.60 1453.71  +1.30 % │     4108760670029     4055087206645  +1.32 % │     6054119503316     6022497248262  +0.53 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│             coq-sf-plf │   45.00   44.04  +2.18 % │      124779795509      123454189599  +1.07 % │      161320927863      160167986899  +0.72 %│
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼─────────────────────────────────────────────┤
│ coq-mathcomp-odd-order │ 1457.69 1426.47  +2.19 % │     4057204439957     3975725690730  +2.05 % │     6864165156211     6863444449606  +0.01 %│
└────────────────────────┴──────────────────────────┴──────────────────────────────────────────────┴─────────────────────────────────────────────┘
~~~

**Comment by vbgl** [comment]
It seems that the measured performance penalty is due to the additional directory within the libraries.

Is it OK to have a new plug-in within its own directory (namely `plugins/zify`)? Or should an existing directory be reused (e.g., `plugins/omega`)?

Bonus question: how is ssr rewrite dependent on the file-system layout?

**Comment by ejgallego** [comment]
> It seems that the measured performance penalty is due to the additional directory within the libraries.

How so? That cannot be the case unless something very weird is going on.

**Comment by vbgl** [comment]
I’ve launched a new run of the benchmarks: https://ci.inria.fr/coq/view/benchmarking/job/benchmark-part-of-the-branch/765/console

The only difference with the one before is that the zify plugin is in the omega directory rather than in its own zify directory. I agree, this is very weird.

**Comment by ppedrot** [comment]
Let me try to perform a precise profile to get an idea of the source of this puzzling mess...

**Comment by fajb** [comment]
@vbgl , thanks for investigating!
This is indeed a weird side-effect.

**Comment by ppedrot** [comment]
@vbgl the plot thickens: I cannot observe any difference via `perf` on the incriminated lines with and without the PR. Both codes are passing their times in a substitution triggered by a conversion problem (the infamous `whd_betaiota_deltazeta_for_iota_state` function). No idea what differs.

File: plugins/zify/zify.ml (hunk 47 above)
Comment (fajb) [reply plugins/zify/zify.ml]: Thanks. Done.

File: plugins/zify/zify.ml (hunk 46 above)
Comment (fajb) [reply plugins/zify/zify.ml]: I also keep forgetting. I am now using get_sort_of throughout.

**Comment by vbgl** [comment]
I guess you need to rebase and generate again the extracted code so as to fix the test-suite.

**Comment by vbgl** [comment]
I’ve dealt with the test-suite failure. I guess this is now ready.

**Comment by vbgl** [comment]
Here are the final benchmark results.

~~~
┌────────────────────────┬──────────────────────────┬──────────────────────────────────────────────┬──────────────────────────────────────────────┐
│                        │      user time [s]       │                  CPU cycles                  │               CPU instructions               │
│                        │                          │                                              │                                              │
│           package_name │     NEW     OLD  PDIFF   │               NEW               OLD  PDIFF   │               NEW               OLD  PDIFF   │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│              coq-flocq │  246.71  463.10 -46.73 % │      685632149542     1288759087412 -46.80 % │      865112353513     1784288902923 -51.52 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│        coq-fiat-crypto │ 3769.26 3845.16  -1.97 % │    10463969909514    10673283631340  -1.96 % │    16352828841213    16659951935884  -1.84 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│ coq-fiat-crypto-legacy │ 6265.33 6354.11  -1.40 % │    17446228053763    17681781586675  -1.33 % │    28257725417020    28593943919046  -1.18 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│           coq-compcert │  778.11  786.49  -1.07 % │     2168969311745     2191136114007  -1.01 % │     2895701831188     2936119482674  -1.38 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│            coq-bignums │   68.55   68.91  -0.52 % │      189025272784      190039405600  -0.53 % │      250709118020      252819811006  -0.83 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│  coq-mathcomp-fingroup │   51.65   51.77  -0.23 % │      144100112014      143835156637  +0.18 % │      186885947770      186887468698  -0.00 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│               coq-hott │  391.19  391.77  -0.15 % │     1066620098770     1067431698897  -0.08 % │     1611192166739     1610926620162  +0.02 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│ coq-mathcomp-character │  182.74  182.98  -0.13 % │      508739443048      510181207418  -0.28 % │      671317784973      671313868183  +0.00 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│            coq-unimath │ 4056.71 4059.76  -0.08 % │    11303803121952    11311628859022  -0.07 % │    20814241054320    20812857597777  +0.01 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│          coq-fourcolor │ 2173.85 2175.15  -0.06 % │     6063934296179     6065239992852  -0.02 % │    11360060103199    11357481642030  +0.02 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│     coq-mathcomp-field │  231.07  231.15  -0.03 % │      643885333024      644097895984  -0.03 % │      918277647198      918275572177  +0.00 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│   coq-mathcomp-algebra │  165.34  165.39  -0.03 % │      461076653437      461613109689  -0.12 % │      569278213750      569338091276  -0.01 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│  coq-mathcomp-solvable │  189.80  189.70  +0.05 % │      528868437790      528877023543  -0.00 % │      705108214074      705094993239  +0.00 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│ coq-mathcomp-odd-order │ 1448.10 1446.75  +0.09 % │     4036062500641     4032114466813  +0.10 % │     6860847991551     6859293426988  +0.02 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│ coq-mathcomp-ssreflect │   40.29   40.24  +0.12 % │      111187506333      111299731489  -0.10 % │      134948832953      134960596988  -0.01 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│        coq-lambda-rust │ 1540.53 1538.53  +0.13 % │     4295736723280     4288399685680  +0.17 % │     5670166411372     5646659399262  +0.42 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│             coq-geocoq │ 1581.42 1579.12  +0.15 % │     4417416574996     4409386576092  +0.18 % │     6451123359310     6444233230276  +0.11 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│       coq-math-classes │  218.19  217.84  +0.16 % │      609393635679      608223676881  +0.19 % │      770190020687      769483945667  +0.09 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│         coq-verdi-raft │ 1331.81 1328.90  +0.22 % │     3714521457871     3706640813856  +0.21 % │     5012678294219     5000590899539  +0.24 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│       coq-fiat-parsers │  651.44  649.62  +0.28 % │     1823160751093     1816734781513  +0.35 % │     2735407569184     2725530632605  +0.36 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│              coq-color │  725.57  723.47  +0.29 % │     2027911762023     2020218556494  +0.38 % │     2412999637304     2403336022579  +0.40 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│             coq-sf-plf │   44.68   44.49  +0.43 % │      125041922465      124314293734  +0.59 % │      161654397849      160781010478  +0.54 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│              coq-verdi │  121.03  120.35  +0.57 % │      336076563754      334944612611  +0.34 % │      419966090269      418756513594  +0.29 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│               coq-corn │ 1468.98 1459.01  +0.68 % │     4101394246212     4073499199779  +0.68 % │     6054735869307     6022148500763  +0.54 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│         coq-coquelicot │   77.78   76.72  +1.38 % │      212797431364      211512934990  +0.61 % │      257600193784      255641112935  +0.77 % │
├────────────────────────┼──────────────────────────┼──────────────────────────────────────────────┼──────────────────────────────────────────────┤
│          coq-fiat-core │  114.01  112.06  +1.74 % │      322949172636      319643854438  +1.03 % │      402212747411      398396827184  +0.96 % │
└────────────────────────┴──────────────────────────┴──────────────────────────────────────────────┴──────────────────────────────────────────────┘
~~~

**Comment by vbgl** [comment]
Frédéric, I think you should squash a bit the commits.

Maxime, will you take care of merging this PR? Thanks.

**Comment by vbgl** [comment]
Maybe Laurent can take care of this PR, in case the current assignee is busy.

Ping @thery.

**Comment by maximedenes** [comment]
I can take care of it.

**Review by maximedenes — APPROVED** [review]

**Comment by maximedenes** [comment]
@fajb congrats for this nice piece of work!

**Comment by fajb** [comment]
Thank you for your support. It would not have been possible without it.
Special thanks to  @vbgl who has been very helpful.

**Comment by Blaisorblade** [comment]
Does this also handle https://github.com/coq/coq/issues/8898#issuecomment-529009435? That needs an `exfalso` even if the conclusion is not in `Type`.

**Comment by vbgl** [comment]
Yes it does. The `lia` tactic can now solve both goals, without explicitly running `exfalso`.
